US08859596B2
1-allyl-3-tert-butyl-1H-pyrazol-5-amine
Allylhydrazine (70% in water, Wako) and 4,4-dimethyl-3-oxopentanenitrile (Aldrich) were processed as described for Example 30A to obtain the title compound. MS (ESI+) m/z 180 (M+H)+.

reactant | Allylhydrazine | C(C=C)NN | C3H8N2
reactant | 4,4-dimethyl-3-oxopentanenitrile | CC(C(CC#N)=O)(C)C | C7H11NO
product | 1-allyl-3-tert-butyl-1H-pyrazol-5-amine | C(C=C)N1N=C(C=C1N)C(C)(C)C | C10H17N3
